US07521461B2
Methyl 2-{[3-(2-hydroxyethyl)phenoxy]methyl}benzoate (0.5 g, 1.75 mmol), 4-(benzyloxy)phenol (0.35 g, 1.75 mmol) and triphenylphosphine (0.5 g, 1.92 mmol) were added to a dry roundbottomed flask and fitted with a septum Dry toluene (10 ml) was added and N2 was flushed through the mixture for 5 minutes. Diisopropyl (E)-diazene-1,2-dicarboxylate (0.39 g, 1.92 mmol) was added dropwise and the solution was stirred at room temperature. After three hour, another equivalent of reagents was added and stirred for one hour. After removing the solvent by evaporation the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions was pooled and the acetonitrile was removed by evaporation EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 0.319 g methyl 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoate (yield 39%).

reactant | Methyl 2-{[3-(2-hydroxyethyl)phenoxy]methyl}benzoate | 1.75 mmol, 0.5 g | OCCC=1C=C(OCC2=C(C(=O)OC)C=CC=C2)C=CC1 | C17H18O4
reactant | 4-(benzyloxy)phenol | 1.75 mmol, 0.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | triphenylphosphine | 1.92 mmol, 0.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl (E)-diazene-1,2-dicarboxylate | 1.92 mmol, 0.39 g | N(=N\C(=O)OC(C)C)/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[(3-{2-[4-(benzyloxy)phenoxy]ethyl}phenoxy)methyl]benzoate | 0.319 g, yield 39% | C(C1=CC=CC=C1)OC1=CC=C(OCCC=2C=C(OCC3=C(C(=O)OC)C=CC=C3)C=CC2)C=C1 | C30H28O5
